US05814653
6-(4-nitrobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 9.2 mg (0.040 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 16.9 mg (0.101 mMol) 4-nitrobenzoic acid, 1.2 mg (8%) of the title compound were recovered as a dark brown solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.040 mMol, 9.2 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-nitrobenzoic acid | 0.101 mMol, 16.9 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 6-(4-nitrobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 1.2 mg, 8% | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C21H22N4O3
